US04638067
A mixture of 0.50 g (1.84 mmole) of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 5 ml of acetonitrile, 0.28 g (1.84 mmole) of 1,8-diazabicyclo [5.4.0]undec-7-ene and 0.19 g (1.94 mmole) of 3-pyrrolidinemethanamine was refluxed for one hour; then stirred at room temperature overnight. The reaction was filtered and the precipitate washed with ethyl ether to give 0.56 g of 7-[3-(aminomethyl)-1-pyrrolidinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp 219°-221° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.84 mmole, 0.50 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 1,8-diazabicyclo [5.4.0]undec-7-ene | 1.84 mmole, 0.28 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-pyrrolidinemethanamine | 1.94 mmole, 0.19 g | N1CC(CC1)CN | C5H12N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-[3-(aminomethyl)-1-pyrrolidinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.56 g | NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C17H19F2N3O3
